* A52_pilot_natural_or_1p
* A52 pilot for BOUNDARY.md Section 2's event-gated dead-time transition.
* Case        : natural  (expected branch: natural_crossing)
* Mechanism   : or
* Max timestep: 1p
* Commanded window : [1.000000000000e-09, 3.150000000000e-09] s
*                    (length 2.150000000000e-09 s = the real dead_time_s)
* Analytic natural crossing instant          : 2.000000000000e-09 s
* Analytic Vds at window end if never crossing: -11.500000000 V
* EXPECTED transition instant                 : 2.000000000000e-09 s
.param VG=5.0 VTH=2.5 RON=0.007
.param TWSTART=1.000000000000e-09 TWEND=3.150000000000e-09

* The commutating node: held at V0 until the commanded window opens, then
* discharged by a constant current.  The current ramp is centered on
* TWSTART, so the charge removed is first-order identical to an ideal step.
C_NODE vds 0 1.000000000000e-09
I_PULL vds 0 PWL(0 0 {TWSTART-5.000000000000e-14} 0
+ {TWSTART+5.000000000000e-14} 10.0)
S_HIGH vds 0 gh 0 SWU
R_NUM vds 0 1G

* Commanded instants are `time>=` rules: no waveform, no threshold, no ramp.
.machine 1p
.state S_WAIT 0
.state S_DT 1
.state S_ON 2
.rule S_WAIT S_DT time>=1.000000000000e-09
.rule S_DT S_ON (V(vds)<=0) | (time>=3.150000000000e-09)
.output (gh) VG*(state==S_ON)
.output (pstate) state
.endmachine
R_GH gh 0 1k
R_PSTATE pstate 0 1k

.model SWU SW(Ron={RON} Roff=1T Vt={VTH} Vh=0)

* Branch (i)/(ii) discriminators.
*  - T_VDS_CROSS is the DIRECT physical crossing instant and carries no
*    gate-ramp latency at all; FALL=1 is used so the t=0 sample cannot be
*    mistaken for a crossing.
*  - T_GH_ON is the instant the switch actually closes, which lags the
*    state change by the `.machine` output ramp (measured, see RESULTS.md).
.meas tran T_DT_ENTER WHEN V(pstate)=0.5 RISE=1
.meas tran T_GH_ON WHEN V(gh)={VTH} RISE=1
.meas tran VDS_AT_ON FIND V(vds) WHEN V(gh)={VTH} RISE=1
.meas tran T_VDS_CROSS WHEN V(vds)=0 FALL=1
.meas tran VDS_BEFORE_WEND FIND V(vds) AT {TWEND-1f}
.meas tran VDS_AT_WSTART FIND V(vds) AT {TWSTART}

.options plotwinsize=0 reltol=1e-6 abstol=1e-12 vntol=1e-9 chgtol=1e-16
+ cshunt=1e-15
.save V(vds) V(gh) V(pstate)
.ic V(vds)=10.0
.tran 0 4n 0 1.000000000000e-12 UIC
.end
